US09315493B2
Process 5: Sodium hydrogen carbonate (1.19 g, 14.1 mmol) was added to dimethyl sulfoxide (15 mL) mixture of hydroxylamine hydrochloride (838 mg, 12.1 mmol) and stirred for 1 hour at 40° C. The reaction mixture was added dimethyl sulfoxide (15 mL) solution of 2-{5-{[1-(5-ethoxypyrimidin-2-yl)-2-isopropyl-6-oxo-4-propyl-1,6-dihydropyrimidin-5-yl]methyl}pyridin-2-yl}benzonitrile (353 mg, 0.71 mmol) and stirred for 18 hours at 90° C. The reaction mixture was added water (80 mL) and ethyl acetate (20 mL) and stirred for 30 minutes. The precipitated solid was collected by filtration and washed with water and ethyl acetate. It was then dried in vacuo to give 2-{5-{[1-(5-ethoxypyrimidin-2-yl)-2-isopropyl-6-oxo-4-propyl-1,6-dihydropyrimidin-5-yl]methyl}pyridin-2-yl}-N′-hydroxybenzimidamide (214 mg, 57%) as a white solid.

reactant | Sodium hydrogen carbonate | 14.1 mmol, 1.19 g | C(O)([O-])=O.[Na+]
reactant | dimethyl sulfoxide | 15 mL | CS(=O)C | C2H6OS
reactant | hydroxylamine hydrochloride | 12.1 mmol, 838 mg | Cl.NO
reactant | dimethyl sulfoxide | 15 mL | CS(=O)C | C2H6OS
reactant | 2-{5-{[1-(5-ethoxypyrimidin-2-yl)-2-isopropyl-6-oxo-4-propyl-1,6-dihydropyrimidin-5-yl]methyl}pyridin-2-yl}benzonitrile | 0.71 mmol, 353 mg | C(C)OC=1C=NC(=NC1)N1C(=NC(=C(C1=O)CC=1C=CC(=NC1)C1=C(C#N)C=CC=C1)CCC)C(C)C | C29H30N6O2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 80 mL | O | H2O
product | 2-{5-{[1-(5-ethoxypyrimidin-2-yl)-2-isopropyl-6-oxo-4-propyl-1,6-dihydropyrimidin-5-yl]methyl}pyridin-2-yl}-N′-hydroxybenzimidamide | 214 mg, 57% | C(C)OC=1C=NC(=NC1)N1C(=NC(=C(C1=O)CC=1C=CC(=NC1)C1=C(C(N)=NO)C=CC=C1)CCC)C(C)C | C29H33N7O3
